US08703797B2
2-Hydrazinyl-4-methylquinoline:
A solution of 2-chloro-4-methylquinoline (1.00 g, 5.63 mmol) in NH2NH2 was reacted as outlined in Scheme 1 above to give the title compound which was used in the next step without further purification.

reactant | 2-chloro-4-methylquinoline | 5.63 mmol, 1.00 g | ClC1=NC2=CC=CC=C2C(=C1)C | C10H8ClN
reactant | NH2NH2 | NN | H4N2
product | 2-Hydrazinyl-4-methylquinoline | N(N)C1=NC2=CC=CC=C2C(=C1)C | C10H11N3
